### PR TITLE
[Merged by Bors] - feat(Asymptotics): add `Asymptotics.*.*Prod` lemmas

### PR DESCRIPTION
**Pull request by urkud**
`IsBigO.fisnetProd` comes from https://github.com/urkud/SardMoreira,
the others are added to avoid gaps in the API.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 1]
```diff
@@ -1570,26 +1570,71 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
-  · simp only [isLittleO_zero, Finset.sum_empty, forall_true_iff]
-  · simp only [is, Finset.sum_insert, not_false_iff]
-    exact (h _ (Finset.mem_insert_self i s)).add (IH fun j hj => h _ (Finset.mem_insert_of_mem hj))
+  simp only [← Finset.sum_apply]
+  exact Finset.sum_induction A (· =o[l] g') (fun _ _ ↦ .add) (isLittleO_zero ..) h
 
 end Sum
 
+section Prod
+
```
Comment (eric-wieser) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1591]:
```suggestion
variable {ι : Type*}

```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 2]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
-    exact (h _ (Finset.mem_insert_self i s)).add (IH fun j hj => h _ (Finset.mem_insert_of_mem hj))
+  simp only [← Finset.sum_apply]
+  exact Finset.sum_induction A (· =o[l] g') (fun _ _ ↦ .add) (isLittleO_zero ..) h
 
 end Sum
 
+section Prod
+variable {ι : Type*}
+
+theorem IsBigO.listProd {ι : Type*} {L : List ι} {f : ι → α → R} {g : ι → α → 𝕜}
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1593]:
```suggestion
theorem IsBigO.listProd {L : List ι} {f : ι → α → R} {g : ι → α → 𝕜}
```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 3]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
+    (hf : ∀ i ∈ L, f i =O[l] g i) :
+    (fun x ↦ (L.map (f · x)).prod) =O[l] (fun x ↦ (L.map (g · x)).prod) := by
+  induction L with
+  | nil => simp [isBoundedUnder_const]
+  | cons i L ihL =>
+    simp only [List.map_cons, List.prod_cons, List.forall_mem_cons] at hf ⊢
+    exact hf.1.mul (ihL hf.2)
+
+theorem IsBigO.multisetProd {ι R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1602]:
```suggestion
theorem IsBigO.multisetProd {R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 4]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
+    {s : Multiset ι} {f : ι → α → R} {g : ι → α → 𝕜} (hf : ∀ i ∈ s, f i =O[l] g i) :
+    (fun x ↦ (s.map (f · x)).prod) =O[l] (fun x ↦ (s.map (g · x)).prod) := by
+  obtain ⟨l, rfl⟩ : ∃ l : List ι, ↑l = s := Quotient.mk_surjective s
+  exact mod_cast IsBigO.listProd hf
+
+theorem IsBigO.finsetProd {ι R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1608]:
```suggestion
theorem IsBigO.finsetProd {R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 5]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
+    {s : Finset ι} {f : ι → α → R} {g : ι → α → 𝕜}
+    (hf : ∀ i ∈ s, f i =O[l] g i) : (∏ i ∈ s, f i ·) =O[l] (∏ i ∈ s, g i ·) :=
+  .multisetProd hf
+
+theorem IsLittleO.listProd {ι : Type*} {L : List ι} {f : ι → α → R} {g : ι → α → 𝕜}
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1613]:
```suggestion
theorem IsLittleO.listProd {L : List ι} {f : ι → α → R} {g : ι → α → 𝕜}
```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 6]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
+  induction L with
+  | nil => simp at h₂
+  | cons i L ihL =>
+    simp only [List.map_cons, List.prod_cons, List.forall_mem_cons, List.exists_mem_cons_iff]
+      at h₁ h₂ ⊢
+    cases h₂ with
+    | inl hi => exact hi.mul_isBigO <| .listProd h₁.2
+    | inr hL => exact h₁.1.mul_isLittleO <| ihL h₁.2 hL
+
+theorem IsLittleO.multisetProd {ι R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1625]:
```suggestion
theorem IsLittleO.multisetProd {R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```

File: Mathlib/Analysis/Asymptotics/Asymptotics.lean [hunk 7]
```diff
@@ -1570,26 +1570,72 @@ variable {ι : Type*} {A : ι → α → E'} {C : ι → ℝ} {s : Finset ι}
...
+    {s : Multiset ι} {f : ι → α → R} {g : ι → α → 𝕜} (h₁ : ∀ i ∈ s, f i =O[l] g i)
+    (h₂ : ∃ i ∈ s, f i =o[l] g i) :
+    (fun x ↦ (s.map (f · x)).prod) =o[l] (fun x ↦ (s.map (g · x)).prod) := by
+  obtain ⟨l, rfl⟩ : ∃ l : List ι, ↑l = s := Quotient.mk_surjective s
+  exact mod_cast IsLittleO.listProd h₁ h₂
+
+theorem IsLittleO.finsetProd {ι R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```
Comment (urkud) [inline Mathlib/Analysis/Asymptotics/Asymptotics.lean:1632]:
```suggestion
theorem IsLittleO.finsetProd {R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Makes sense to me

maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
